US05273988
Preparation of 2-(3,4,4-trifluoro-butenylthio)-benzoxazole
2-Mercaptobenzoxazole (2 g), 4-bromo-1,1,2-trifluorobut-1-ene (2.75 g) and potassium carbonate (1 g) were stirred together in 40 ml of acetone and heated to reflux. After 2 hours the reaction mixture was allowed to cool, filtered to remove insoluble potassium salts and the filterate was evaporated under reduced pressure to yield 3.54 g of a brown oil which was used in step b without purification.

reactant | 2-Mercaptobenzoxazole | 2 g | SC=1OC2=C(N1)C=CC=C2 | C7H5NOS
reactant | 4-bromo-1,1,2-trifluorobut-1-ene | 2.75 g | BrCCC(=C(F)F)F | C4H4BrF3
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(3,4,4-trifluoro-butenylthio)-benzoxazole | 3.54 g | FC(C=CSC=1OC2=C(N1)C=CC=C2)C(F)F | C11H8F3NOS
